US07964724B2
tert-Butyl 4-(2,2,2-trifluoroacetyl)piperazine-1-carboxylate (0.908 g, 3.22 mmol) was added to a solution of borane-tetrahydrofuran complex (8 mmol) in tetrahydrofuran (24 mL) and the reaction mixture was heated at reflux for 2 h. After cooling, 2 N hydrochloric acid (4 mL) was carefully added and the reaction mixture was stirred until gas evolution ceased and then diluted with ethyl acetate (200 mL). Aqueous sodium hydroxide (0.2 M, 75 mL) was then added and the phases were separated. The organic layer was dried over sodium sulfate and evaporated. The residue was purified by column chromatography (eluting with 20% ethyl acetate in hexanes) to give tert-butyl 4-(2,2,2-trifluoroethyl)piperazine-1-carboxylate (0.627 g, 73%) as a white solid.

reactant | tert-Butyl 4-(2,2,2-trifluoroacetyl)piperazine-1-carboxylate | 3.22 mmol, 0.908 g | FC(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H17F3N2O3
reactant | hydrochloric acid | 2 N, 4 mL | Cl | ClH
reactant | sodium hydroxide | 0.2 M, 75 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(2,2,2-trifluoroethyl)piperazine-1-carboxylate | 0.627 g, 73% | FC(CN1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H19F3N2O2
